US04710502
3-[3-(1H-Imidazol-1-yl)-2-methylpropyl]-6-nitro 4(3H)-quinazolinone
A mixture of 3.03 g of 2-amino-N-[3-(1H-imidazol-1-yl)-2-methylpropyl]-5-nitrobenzamide and 10 ml of triethyl orthoformate is heated at reflux temperature for 20 hours and concentrated to obtain the above compound.

reactant | 2-amino-N-[3-(1H-imidazol-1-yl)-2-methylpropyl]-5-nitrobenzamide | 3.03 g | NC1=C(C(=O)NCC(CN2C=NC=C2)C)C=C(C=C1)[N+](=O)[O-] | C14H17N5O3
reactant | triethyl orthoformate | 10 ml | C(OCC)(OCC)OCC | C7H16O3
product | 3-[3-(1H-Imidazol-1-yl)-2-methylpropyl]-6-nitro 4(3H)-quinazolinone | N1(C=NC=C1)CC(CN1C=NC2=CC=C(C=C2C1=O)[N+](=O)[O-])C | C15H15N5O3
